US09382243B2
Step B. ((2R,3S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-3-((triethylsilyl)oxy)tetrahydro-2H-pyran-2-yl)methanol
To a stirred solution of 5-([1,1′-biphenyl]-4-yl)-6-chloro-2-(((3R,5S,6R)-5-((triethylsilyl)oxy)-6-(((triethylsilyl)oxy)-methyl)tetrahydro-2H-pyran-3-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine (99 mg, 0.122 mmol) under nitrogen in DCM (2.0 mL) and methanol (2.0 mL) at −20° C. was added pyridinium-paratoluenesulfonic acid (6 mg, 0.024 mmol). After stirring for 2.5 hours at −20° C., the mixture was poured into saturated aqueous sodium bicarbonate (40 mL) and extracted with EtOAc (2×50 mL). The combined organic layers were washed with brine (40 mL), dried over sodium sulfate, and concentrated under reduced pressure. The resultant oil was chromatographed using a Biotage™ 20 g (2×10 g in series) silica gel cartridge eluted with 0-20% EtOAc in 1:1 Hexane/DCM over 15 column volumes, then 20-100% EtOAc over 10 column volumes. The desired SEM regiosiomeric products were combined and concentrated under reduced pressure to provide the title compound as a clear oil. LC-MS: calculated for C36H50ClN3O5Si2 695.30, observed m/e: 696.23 (M+H)+ (Rt 3.26/4 min, minor isomer), 696.23 (M+H)+ (Rt 3.39/4 min, major isomer).

reactant | 5-([1,1′-biphenyl]-4-yl)-6-chloro-2-(((3R,5S,6R)-5-((triethylsilyl)oxy)-6-(((triethylsilyl)oxy)-methyl)tetrahydro-2H-pyran-3-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine | 0.122 mmol, 99 mg | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@H]2CO[C@@H]([C@H](C2)O[Si](CC)(CC)CC)CO[Si](CC)(CC)CC)Cl)C2=CC=CC=C2 | C42H64ClN3O5Si3
reactant | methanol | 2.0 mL | CO | CH4O
reactant | pyridinium-paratoluenesulfonic acid | 0.024 mmol, 6 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.[NH+]1=CC=CC=C1
reactant | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
product | ((2R,3S,5R)-5-((5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)-3-((triethylsilyl)oxy)tetrahydro-2H-pyran-2-yl)methanol | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]([C@H](OC2)CO)O[Si](CC)(CC)CC)Cl)C2=CC=CC=C2 | C36H50ClN3O5Si2
